US04167570
2.47 gm of 6,11-dihydro-2,4,6-trimethyl-5H-pyrido-[2,3-b][1,5]benzodiazepin-5-one were dissolved in 15 ml of dimethyl formamide, 0.76 gm of 50% sodium hydride in mineral oil was added, and the mixture was stirred at room temperature for one hour. Then, 1.7 ml of 1-bromo-3-chloro-propane were added, and the mixture was stirred at room temperature for 5 hours. After standing overnight, 100 ml of methylene chloride were added and the reaction mixture was washed three times with water. The organic phase was dried over sodium sulfate and evaporated in vacuo at room temperature. The crystalline residue was digested with a mixture of 7 ml of chloroform and 7 ml of ethyl acetate, and the mixture was suction-filtered. The filter cake was recrystallized from absolute ethanol, yielding 52% of theory of 11-(3-chloro-propyl)-6,11-dihydro-2,4,6-trimethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one having a melting point of 161°-163° C.

reactant | 6,11-dihydro-2,4,6-trimethyl-5H-pyrido-[2,3-b][1,5]benzodiazepin-5-one | 2.47 gm | CC=1C=C(C2=C(NC3=C(N(C2=O)C)C=CC=C3)N1)C | C15H15N3O
reactant | sodium hydride | 0.76 gm | [H-].[Na+]
reactant | 1-bromo-3-chloro-propane | 1.7 ml | BrCCCCl | C3H6BrCl
reactant | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | dimethyl formamide | 15 ml | CN(C=O)C | C3H7NO
product | 11-(3-chloro-propyl)-6,11-dihydro-2,4,6-trimethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | ClCCCN1C2=C(C(N(C3=C1C=CC=C3)C)=O)C(=CC(=N2)C)C | C18H20ClN3O
